US08648087B2
Step E: Preparation of 4-chloroquinazolin-6-ol:
A mixture of 4-chloroquinazolin-6-yl acetate (10.0 g, 44.9 mmol) and ammonia (200 mL of 7N solution in methanol) were stirred together for 1 hour. The reaction mixture was concentrated to about 3 mL and triturated with diethyl ether to provide the product (6.50 g, 80%) as tan solid.

reactant | 4-chloroquinazolin-6-yl acetate | 44.9 mmol, 10.0 g | C(C)(=O)OC=1C=C2C(=NC=NC2=CC1)Cl | C10H7ClN2O2
solvent | ammonia | 7N, 200 mL | N | H3N
product | 4-chloroquinazolin-6-ol | 6.50 g, 80% | ClC1=NC=NC2=CC=C(C=C12)O | C8H5ClN2O
